US07247625B2
4-[(4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)amino]-2-fluorobenzonitrile
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 4-bromo-2-fluorobenzonitrile according to the coupling procedure described in example 2. 1H NMR (DMSO-d6): δ 9.15 (s, 1H), 7.62 (t, J=7.9 Hz, 1H), 7.24 (dd, J=8.6, 2.3 Hz, 1H), 7.11 (d, J=8.7 Hz, 1H), 7.03 (d, J=2.4 Hz, 1H), 6.76 (m, 2H), 3.29 (s, 3H), 1.99 (m, 4H), 0.81 (t, J=7.3 Hz, 6H); MS (ESI) m/z 354 ([M+H]+); MS (ESI) m/z 352 ([M−H]−); Anal. calcd for C20H20FN3O2: C, 67.97H, 5.70; N, 11.89. Found: C, 67.09; H, 5.64; N, 11.53.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 4-bromo-2-fluorobenzonitrile | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
product | 4-[(4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)amino]-2-fluorobenzonitrile | C(C)C1(OC(N(C2=C1C=C(C=C2)NC2=CC(=C(C#N)C=C2)F)C)=O)CC | C20H20FN3O2
